US05602253
(ii) (3RS)-1-benzyl-3-chloromethyl pyrrolidine
To a refluxing solution of 15.3 g (0.08 mole) (3RS)-1-benzyl-3-hydroxymethyl pyrrolidine in 220 ml CHCl3 was slowly added a solution of 330 ml thionyl chloride in 60 ml CHCl3, and the reflux was continued for one hour. The mixture was evaporated and the residue was dissolved in water. The water layer was washed with ethyl acetate and then made alkaline with 0.2M NaOH-solution. The water layer was extracted three times with ethyl acetate and the combined organic layer was dried (Na2SO4), filtered and evaporated to give the product in a quantitative yield (16.8 g).

reactant | (3RS)-1-benzyl-3-hydroxymethyl pyrrolidine | 0.08 mole, 15.3 g | C(C1=CC=CC=C1)N1CC(CC1)CO | C12H17NO
reactant | thionyl chloride | 330 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CHCl3 | 220 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | (3RS)-1-benzyl-3-chloromethyl pyrrolidine | quantitative yield | C(C1=CC=CC=C1)N1CC(CC1)CCl | C12H16ClN
